Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion
 
Major Surgical or Invasive Procedure:
___ Coronary artery bypass graft x 3
 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of 
hyperlipidemia, hypertension, impaired glucose tolerance, and 
peripheral arterial disease. She has noted dyspnea on exertion 
and was recently referred for a stress echocardiogram which 
demonstrated diffuse T-wave inversions in the precordial leads. 
Rest images demonstrated a moderate sized anterior wall defect. 
Given the high likelihood of coronary artery disease, the stress 
portion of the test was cancelled and she was scheduled for 
cardiac catheterization. Cardiac catheterization on ___ 
revealed severe multivessel coronary artery disease. She was 
referred to Dr. ___ surgical consultation.
 
Past Medical History:
Anemia
Anxiety 
Cataracts
Gastroesophageal Reflux Disease
Hearing Loss, right
Hyperlipidemia
Hypertension
Impaired Glucose Tolerance
Peripheral Arterial Disease
Seasonal Allergies
Subarachnoid Hemorrhage
Eye Surgery
Femoral Artery Stent on right
Shoulder Surgery
 
Social History:
___
Family History:
Mother - 
Father - + CAD
Siblings -
 
Physical Exam:
BP: 152/62 (left arm ). Heart Rate: 80. O2 Saturation%: 98 (room 
air ). Resp. Rate: 19. Pain Score: 0.

Height: 64"      Weight: 105lbs

General: Somewhat frail, thin female in NAD.
Skin: Warm, Dry and intact. 
HEENT: NCAT, PERRL, EOMI, Sclera anicteric, OP benign. Teeth in 
fair repair with upper dentures. 
Neck:  Supple [X] Full ROM [X]
Chest: Lungs clear bilaterally [X]
Heart: RRR, No M/R/G 
Abdomen: Soft [X] non-distended [X] non-tender [X]  bowel sounds 
+ [X]
Extremities: Warm [X], well-perfused [X]  No Edema 
Varicosities: + Right ___ and mild in right thigh. Left better 
and appears suitable. 
Neuro: Grossly intact [X]
Pulses:
Femoral      Right:2   Left:2
DP           Right:P   Left:
___           Right:P   Left:
Radial       Right:2   Left:2

Carotid Bruit:        ?Left

 
Pertinent Results:
Echo ___: Pre-Bypass Examination
rhythm: sinus
infusions: Nitroglycerin
1. The left atrium is dilated. No spontaneous echo contrast is 
seen in the body of the left atrium or left atrial appendage. 
2. A small patent foramen ovale is present with left to right 
flow seen on color doppler examination. 
3. Left ventricular wall thicknesses are normal. The left 
ventricular cavity size is normal. Overall left ventricular 
systolic function is normal (LVEF>55%). Doppler parameters are 
most consistent with Grade I (mild) left ventricular diastolic 
dysfunction. There is some flow acceleration noted in the LVOT 
on color doppler examination.
4. Right ventricular chamber size and free wall motion are 
normal. 
5. The aortic valve leaflets (3) appear structurally normal with 
good leaflet excursion and no aortic stenosis or aortic 
regurgitation. 
6. There is no mitral valve prolapse. Mild (1+) mitral 
regurgitation is seen by vena contracta, CW doppler and 
pulmonary venous PWD. 
7. There is no pericardial effusion. 
Post Bypass Examination
rhythm: av pacing
infusions: phenylephrine 0.2mcg/kg/min
1. Left ventricular function is intact
2. Right ventricular function is intact
3. Valvular function is intact and unchanged from pre-bypass 
examination
4. Aorta intact, no evidence of dissection
Findings discussed with Dr. ___ at the time of examination

___ PA&lat
Right IJ catheter is again seen with tip projecting at the 
superior cavoatrial junction.  Median sternotomy wires and 
surgical clips appears similar. 
  
Small bilateral pleural effusions.  Mildly coarsened bilateral 
interstitial markings likely represents mild pulmonary edema.  
Mild cardiomegaly appears similar.  Healed right midshaft 
clavicle fracture.  Likely small hiatal hernia.  Bones are 
osteopenic. 
  

___ 04:41AM BLOOD WBC-10.4* RBC-3.03* Hgb-9.1* Hct-27.9* 
MCV-92 MCH-30.0 MCHC-32.6 RDW-13.1 RDWSD-44.2 Plt ___
___ 01:56AM BLOOD ___ PTT-24.1* ___
___ 04:36AM BLOOD Glucose-111* UreaN-47* Creat-1.3* Na-139 
K-4.2
___ 04:41AM BLOOD Glucose-98 UreaN-52* Creat-1.3* Na-133* 
K-4.6 Cl-97 HCO3-24 AnGap-12

___ ___ 10:41 AM 
CHEST (PA & LAT)   Clip # ___   
Reason: eval for effusion  
 
Final Report 
INDICATION:  ___ year old woman s/p CABG// eval for effusion 
  
TECHNIQUE:  Chest PA and lateral 
  
COMPARISON:  ___. 
  
IMPRESSION:  
  
Right IJ catheter is again seen with tip projecting at the 
superior cavoatrial junction.  Median sternotomy wires and 
surgical clips appears similar. 
  
Small bilateral pleural effusions.  Mildly coarsened bilateral 
interstitial markings likely represents mild pulmonary edema.  
Mild cardiomegaly appears similar.  Healed right midshaft 
clavicle fracture.  Likely small hiatal hernia.  Bones are 
osteopenic. 
 

 
Brief Hospital Course:
Mrs. ___ was a same day admit and on ___ she was taken 
directly to the operating room where she underwent a coronary 
artery bypass graft x 3. Please see operative note for surgical 
details. Following surgery she was transferred to the ___ for 
invasive monitoring in stable condition. Later this day she was 
weaned from sedation, awoke neurologically intact and extubated. 
Patient was hypoxic and required high flow 02 for 24hrs, she was 
diuresed. Patient also developed ___ with creatinine peak of 
1.5. She developed hyponatremia that has been improving. Pacing 
wires and chest tubes removed in a timely fashion. She 
transferred to the floor and continued to progress well. Her 
creatinine continues to downtrend. Patient was seen by the 
physical therapy service and rehab was recommended. Patient was 
discharged to ___ on POD#6.  Her 
prevena should be removed on ___. All follow-up appointments 
arranged. 

 
Medications on Admission:
Ketorolac Tromethamine 0.5 eye drops, 1 drop 4 times daily
Losartan 100 mg tablet daily
Omeprazole 40 mg tablet daily
Sertraline 50 mg tablet daily
Simvastatin 40 mg tablet daily
Timolol Maleate 0.5% solution
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q4H:PRN Pain - Mild  
2.  Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath  
3.  Docusate Sodium 100 mg PO BID  
4.  Furosemide 40 mg PO DAILY Duration: 4 Days  
5.  Metoprolol Tartrate 25 mg PO TID  
6.  Potassium Chloride 20 mEq PO DAILY Duration: 4 Days  
7.  TraMADol 25 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*40 Tablet Refills:*0 
8.  Aspirin EC 81 mg PO DAILY  
9.  Ketorolac 0.5% Ophth Soln 1 DROP BOTH EYES BID  
10.  Losartan Potassium 50 mg PO DAILY  
11.  Multivitamins W/minerals 1 TAB PO DAILY  
12.  Omeprazole 40 mg PO DAILY  
13.  Sertraline 50 mg PO DAILY  
14.  Simvastatin 20 mg PO QPM  
15.  Timolol Maleate 0.5% 1 DROP RIGHT EYE BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease s/p Coronary artery bypass graft x 3
Past medical history:
Anemia
Anxiety 
Cataracts
Gastroesophageal Reflux Disease
Hearing Loss, right
Hyperlipidemia
Hypertension
Impaired Glucose Tolerance
Peripheral Arterial Disease
Seasonal Allergies
Subarachnoid Hemorrhage
Eye Surgery
Femoral Artery Stent on right
Shoulder Surgery

 
Discharge Condition:
Alert and oriented x3, non-focal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Edema

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
Please - NO lotion, cream, powder or ointment to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics
Clearance to drive will be discussed at follow up appointment 
with surgeon
No lifting more than 10 pounds for 10 weeks
Encourage full shoulder range of motion, unless otherwise 
specified
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
 
Followup Instructions:
___